US07728025B2
(Step 2) Production of 1-((2R,4R)-1-(6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-4-hydroxy-pyrrolidin-2-yl)-ethanone
0.360 ml of methyl lithium (1.0 M diethyl ether solution was added to a tetrahydrofuran (1 ml) solution of 20 mg of (2R,4R)-1-(6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-4-hydroxy-pyrrolidin-2-carboxylic acid methoxy-methyl-amide obtained in (step 1), at −78° C. The reaction liquid was stirred at −78° C. for 1 hour, heated up to 0° C. and stirred for 1 hour. Aqueous saturated ammonium chloride solution was added to the reaction liquid, extracted with ethyl acetate, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain the entitled compound as a pale yellow solid.

reactant | methyl lithium | 0.360 ml | C[Li]
reactant | diethyl ether | 1.0 M | C(C)OCC | C4H10O
reactant | (2R,4R)-1-(6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-4-hydroxy-pyrrolidin-2-carboxylic acid methoxy-methyl-amide | 20 mg | CON(C(=O)[C@@H]1N(C[C@@H](C1)O)C1=CC2=C(N=C(N2)C2=NC=CC=C2)C=C1OC=1C=NC(=CC1)S(=O)(=O)CC)C | C26H28N6O6S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-((2R,4R)-1-(6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-4-hydroxy-pyrrolidin-2-yl)-ethanone | C(C)S(=O)(=O)C1=CC=C(C=N1)OC=1C(=CC2=C(N=C(N2)C2=NC=CC=C2)C1)N1[C@H](C[C@H](C1)O)C(C)=O | C25H25N5O5S
